US07291631B2
Using General Procedure A: Reaction of (3-methyl-pyridin-2-ylmethyl)-(1-pyridin-2-yl-ethyl)-amine, 2-bromomethyl-5-methoxybenzonitrile (Ando, K. et al. Bull. Chem. Soc. Jpn. 1980, 53, 2885-2890), DIPEA and KI in CH3CN gave 5-methoxy-2-{[(3-methyl-pyridin-2-ylmethyl)-(1-pyridin-2-yl-ethyl)-amino]-methyl}-benzonitrile as an orange oil. 1H NMR (CDCl3) δ 1.60 (d, 3H, J=6.9 Hz), 2.08 (s, 3H), 3.73 (d, 1H, J=15.0 Hz), 3.74 (d, 1H, J=12.3 Hz), 3.78 (s, 3H), 3.92 (d 1H, J=12.3 Hz), 3.93 (d, 1H, J=15.0 Hz), 4.03 (q, 1H, J=6.9 Hz), 6.95-7.04 (m, 3H), 7.16 (ddd, 1H, J=7.5, 5.0, 1.0 Hz), 7.29 (t, 2H, J=6.6 Hz), 7.37 (d, 1H, J=7.8 Hz), 7.65 (td, 1H, J=7.7, 1.8 Hz), 8.32 (dd, 1H, J=4.8, 1.2 Hz), 8.58 (dd, 1H, J=4.8, 0.9 Hz).

reactant | (3-methyl-pyridin-2-ylmethyl)-(1-pyridin-2-yl-ethyl)-amine | CC=1C(=NC=CC1)CNC(C)C1=NC=CC=C1 | C14H17N3
reactant | 2-bromomethyl-5-methoxybenzonitrile | BrCC1=C(C#N)C=C(C=C1)OC | C9H8BrNO
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
solvent | CH3CN | CC#N | C2H3N
product | 5-methoxy-2-{[(3-methyl-pyridin-2-ylmethyl)-(1-pyridin-2-yl-ethyl)-amino]-methyl}-benzonitrile | COC=1C=CC(=C(C#N)C1)CN(C(C)C1=NC=CC=C1)CC1=NC=CC=C1C | C23H24N4O
